* MAX809 MACROMODEL
* ------------------------------
* Revision 0, 1/2010
* ------------------------------
* The MAX809 is microprocessor supervisory circuit designed to monitor power supplies in microprocessor and digital systems.
* ------------------------------
*Note:
**       Macro model is developed using the typical device parameters given in the data sheet with 3.3V volts power supply.  Model does not take care of the device non-linearity with temperature variations.  Model characteristics may not match actual device behavior at abnormal operating conditions.
* ------------------------------
* Connections
*      1  = GND
*      2  = /RESET\
*      3  = VCC
****************
.subckt MAX809 1 2 3
E_MAX809_E1         MAX809_N130361221 1 3 MAX809_N130368981 -100
E_MAX809_E36         MAX809_N13036094 1 3 1 1
C_MAX809_Cst1         1 MAX809_N13036386  7n  
V_MAX809_V4         MAX809_N130368981 1 1V
M_MAX809_M13         MAX809_N13036226 MAX809_N130362101 1 1 NJNT L=1u W=2u
D_MAX809_Dst1         MAX809_N13036502 MAX809_N13036386 diodemacro_ideal 
C_MAX809_C13         1 MAX809_N13036382  1u  
D_MAX809_CO3_D2         1 MAX809_N13036382 diodemacro_mostideal 
G_MAX809_CO3_G1         MAX809_N13036382 1 MAX809_N130367200 MAX809_N13036362
+  -1E6
D_MAX809_CO3_D1         MAX809_N13036382 VDD diodemacro_mostideal 
E_MAX809_Est3         MAX809_N13036502 1 MAX809_N13036382 1 1
V_MAX809_V7         MAX809_N130367200 1 2.93V
I_MAX809_I4         3 1 DC 3.737uA  
C_MAX809_C2         1 MAX809_N13036966  1u  
R_MAX809_R6         MAX809_N130367681 MAX809_N13036226  1k  
G_MAX809_G6         3 1 3 1 3.684u
T_MAX809_T1         MAX809_N13036094 1 MAX809_N13036362 1 Z0=50 TD=20u  
M_MAX809_M11         2 MAX809_N13036966 1 1 NMOS L=1u W=25u
D_MAX809_CO6_D2         1 MAX809_N13036966 diodemacro_mostideal 
G_MAX809_CO6_G1         MAX809_N13036966 1 MAX809_N13036386 MAX809_N130365561
+  -1E6
D_MAX809_CO6_D1         MAX809_N13036966 MAX809_N13036094 diodemacro_mostideal 
M_MAX809_M14         2 MAX809_N13036966 3 3 PMOS L=1u W=50u
V_MAX809_V10         MAX809_N130365561 1 1V
R_MAX809_R18         1 MAX809_N13036362  50  
V_MAX809_V6         MAX809_N130367681 1 5V
E_MAX809_E2         MAX809_N130362101 1 3 MAX809_N130368381 100
M_MAX809_M12         MAX809_N13036226 MAX809_N130361221 1 1 NJNT L=1u W=2u
V_MAX809_V5         MAX809_N130368381 1 5.5V
E_MAX809_E34         VDD 1 MAX809_N13036226 1 1
G_MAX809_Gst1         MAX809_N13036386 1 VDD MAX809_N13036382 40n
.IC         V(MAX809_N13036386 )=0
******************
.model diodemacro_ideal d(n=0.001)
.model diodemacro_mostideal d(IS=1E-12 N=0.000001 BV=42 IBV=1)
.model NMOS nmos(VTO=0.5 KP=100E-6)
.model NJNT nmos(VTO=0.5 KP=50E-2) 
.model PMOS pmos(VTO=-0.5 KP=50E-6)
.ends MAX809
******************

* Copyright (c) 2003-2012 Maxim Integrated Products.  All Rights Reserved.
